US06294558B1
2-Fluoro-4-[5-[4-(1,3-thiazol-4-yl)-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide (step 3)
To a stirred solution of 2-fluoro-4-[5-[4-bromo-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide (308 mg, 0.58 mmol) in dioxane (5 ml) was added 4-(tributylstannyl)thiazole (260 mg, 0.70 mmol), tetrakis(triphenylphosphine)palladium (67 mg, 0.058 mmol), lithium chloride (61 mg, 1.45 mmol), and the mixture was heated at reflux temperature for 16 hours. The reaction mixture was cooled down to room temperature, and diluted with ethyl acetate. The whole was washed with saturated potassium fluoride aqueous solution, and the precipitate was removed by filteration through celite. The resulting solution was extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography eluting with ethyl acetate-hexane (1:2) to give title compound (56 mg, 18% yield).

reactant | 2-fluoro-4-[5-[4-bromo-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide | 0.58 mmol, 308 mg | FC1=C(C=CC(=C1)N1N=C(C=C1C1=CC(=C(C=C1)Br)C(F)(F)F)C(F)(F)F)S(=O)(=O)N | C17H9BrF7N3O2S
reactant | 4-(tributylstannyl)thiazole | 0.70 mmol, 260 mg | C(CCC)[Sn](C=1N=CSC1)(CCCC)CCCC
reactant | lithium chloride | 1.45 mmol, 61 mg | [Cl-].[Li+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.058 mmol, 67 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Fluoro-4-[5-[4-(1,3-thiazol-4-yl)-3-(trifluoromethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]benzenesulfonamide | 56 mg, 18% yield | FC1=C(C=CC(=C1)N1N=C(C=C1C1=CC(=C(C=C1)C=1N=CSC1)C(F)(F)F)C(F)(F)F)S(=O)(=O)N | C20H11F7N4O2S2
